US03952104
To a solution of 5.4 parts of chloromethyl pivalate in 60 parts of dry acetone were added 6 parts of 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid sodium salt and 0.1 parts of sodium iodide. The mixture was refluxed for 10 hours, cooled and evaporated to an oil which was dissolved in diethyl ether. The ethereal solution was filtered and evaporated under vacuum to give an oil which solidified when triturated with petroleum ether (b.p. 40°-60° C). The solid was filtered off and crystallised from petroleum ether (b.p. 60°-80° C) to give 4.5 parts of 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid pivaloyoxymethyl ester, m.p. 79°-80° C.

reactant | chloromethyl pivalate | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid sodium salt | [Na+].C(C=C)C1=CC=C(C=2C(C=C(OC21)C(=O)[O-])=O)OCCC(C)C
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid | C(C=C)C1=CC=C(C=2C(C=C(OC21)C(=O)O)=O)OCCC(C)C | C18H20O5
